US06451814B1
(4-{[4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-amino}-phenoxy)-acetic Acid
Methyl 2-{4-[({4-[4-(2-{[(2S)-2-hydroxy-3-(4-{[isopropyl(diphenyl)silyl]oxy}phenoxy)propyl]amino}ethyl)anilino]piperidinyl}carbonyl)amino]phenoxy}acetate (0.16 g, 0.192 mmol) was reacted according to Procedure H (eluant: 10:1 going to 5:1 chloroform-methanol containing 2% triethylamine) to give the title compound (0.64 g, 0.108 mmol)

reactant | Methyl 2-{4-[({4-[4-(2-{[(2S)-2-hydroxy-3-(4-{[isopropyl(diphenyl)silyl]oxy}phenoxy)propyl]amino}ethyl)anilino]piperidinyl}carbonyl)amino]phenoxy}acetate | 0.192 mmol, 0.16 g | O[C@@H](CNCCC1=CC=C(NC2CCN(CC2)C(=O)NC2=CC=C(OCC(=O)OC)C=C2)C=C1)COC1=CC=C(C=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)C | C47H56N4O7Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | (4-{[4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-amino}-phenoxy)-acetic Acid | 0.108 mmol, 0.64 g | O[C@@H](CNCCC1=CC=C(C=C1)NC1CCN(CC1)C(=O)NC1=CC=C(OCC(=O)O)C=C1)COC1=CC=C(C=C1)O | C31H38N4O7
